US07816379B2
Preparation of (S)-3-(4-(4-(4,5-dimethyloxazol-2-yl)phenyl)-3-fluorophenyl)-2-oxo-5-oxazolidinylmethyl acetamide (compound 11)
The same procedure as in Example 1 was conducted, except for adding 4-(4,5-dimethyloxazol-2-yl)-bromobenzene and using (S)-3-(4-trimethylstannyl-3-fluorophenyl)-2-oxo-5-oxazolidinylmethyl acetamide as a starting material, to obtain the title compound.

reactant | 4-(4,5-dimethyloxazol-2-yl)-bromobenzene | CC=1N=C(OC1C)C1=CC=C(C=C1)Br | C11H10BrNO
reactant | (S)-3-(4-trimethylstannyl-3-fluorophenyl)-2-oxo-5-oxazolidinylmethyl acetamide | C[Sn](C1=C(C=C(C=C1)N1CO[C@H](C1)CC(C(=O)N)=O)F)(C)C
product | (S)-3-(4-(4-(4,5-dimethyloxazol-2-yl)phenyl)-3-fluorophenyl)-2-oxo-5-oxazolidinylmethyl acetamide | CC=1N=C(OC1C)C1=CC=C(C=C1)C1=C(C=C(C=C1)N1CO[C@H](C1)CC(C(=O)N)=O)F | C23H22FN3O4
